### PR TITLE
Verified parser

### PR DESCRIPTION
**Pull request by GZGavinZhao**
Depends on #383, #384.

### CODE REVIEW

File: Veir/Parser/MlirParser.lean [hunk 1]
```diff
@@ -296,9 +302,150 @@ def parseOptionalBlockLabel (ip : BlockInsertPoint) : MlirParserM (Option BlockP
   let block ← defineBlock name ip
   /- Insert block arguments in the block. -/
   let blockArguments := arguments.mapIdx (fun index (_, type) => BlockArgument.mk (ValueImpl.mk type none) index () block)
-  let ctx ← getContext
-  let ctx := block.setArguments ctx blockArguments (by sorry)
-  setContext ctx
+  let ⟨ctx, h_ctx_FieldsInBound⟩ ← getContext
+  let h_block_InBounds : block.InBounds ctx := by sorry
+  let ctx' := block.setArguments ctx blockArguments h_block_InBounds
+  setContext ctx' (by
```
Comment (math-fehr) [inline Veir/Parser/MlirParser.lean]: I added the missing lemma in #226, this should make this proof much much simpler!
If you rebase on the PR, you should be able to replace this with
```
setContext ctx' (by
  apply BlockPtr.setArguments_fieldsInBounds
  · sorry -- Need to prove that the block had no arguments before
  · sorry -- Need to prove that the new arguments are FieldsInBounds
  · grind)
```
I'll merge the PR this week-end!

File: Veir/IR/InBounds.lean [hunk 2]
```diff
@@ -441,6 +441,41 @@ theorem BlockPtr.setPrevBlock_genericPtr_mono (ptr : GenericPtr)  :
     ptr.InBounds (setPrevBlock block ctx newPrevBlock h) ↔ ptr.InBounds ctx := by
   grind
 
+@[grind =]
```
Comment (math-fehr) [inline Veir/IR/InBounds.lean:445]: You can remove this after I merge #226

File: Veir/IR/Fields.lean [hunk 3]
```diff
@@ -602,6 +602,19 @@ theorem OperationPtr.setRegions_fieldsInBounds (hnew : ∀ r ∈ newRegions, r.I
     ctx.FieldsInBounds → (setRegions op ctx newRegions h).FieldsInBounds := by
   prove_fieldsInBounds_operation ctx
 
+@[grind .]
```
Comment (math-fehr) [inline Veir/IR/Fields.lean:648]: You can remove this after I merge #226

File: UnitTest/MlirParser.lean [hunk 4]
```diff
@@ -9,11 +10,12 @@ open Veir.Parser
   Parse an operation and print it.
 -/
 def testParseOp (s : String) : IO Unit :=
-  match IRContext.create OpCode with
+  match hcreate : IRContext.create OpCode with
   | some (ctx, _) =>
+    have hctx : ctx.FieldsInBounds := (IRContext.create_fieldsInBounds hcreate).1
```
Comment (ineol) [inline UnitTest/MlirParser.lean]: I think we should aim for these types of goal to be solved by grind instead of writing the proofs manually

File: Veir/Parser/DecidableInBounds.lean [hunk 5]
```diff
@@ -0,0 +1,132 @@
...
+/-- Check that all regions in an array are in bounds. -/
+def checkAllRegionsInBounds (regions : Array RegionPtr) (ctx : IRContext OpInfo) :
+    Except String (PLift (∀ r, r ∈ regions → r.InBounds ctx)) :=
+  if h : ∀ r, r ∈ regions → r.InBounds ctx then .ok ⟨h⟩
+  else .error s!"internal error: not all regions are in bounds"
+
+/-! ## Lifting to Monads -/
+
+/-- Lift an Except computation to any MonadExcept. -/
+def liftExcept [Monad m] [MonadExcept String m] (e : Except String α) : m α :=
```
Comment (ineol) [inline Veir/Parser/DecidableInBounds.lean]: Why is this function needed in this file?

File: Veir/Parser/MlirParser.lean [hunk 6]
```diff
@@ -299,9 +307,19 @@ def parseOptionalBlockLabel (ip : BlockInsertPoint) : MlirParserM (Option BlockP
...
   let blockArguments := arguments.mapIdx (fun index (_, type) => BlockArgument.mk (ValueImpl.mk type none) index () block)
-  let ctx ← getContext
-  let ctx := block.setArguments ctx blockArguments (by sorry)
-  setContext ctx
+  let ⟨ctx, h_ctx_FieldsInBound⟩ ← getContext
+  let ⟨h_block_InBounds⟩ ← liftExcept (checkBlockInBounds block ctx)
+  let ⟨h_block_NoArgs⟩ ← liftExcept (checkBlockHasNoArgs block ctx)
+  let ctx' := block.setArguments ctx blockArguments h_block_InBounds
+  setContext ctx' (by
+    apply BlockPtr.setArguments_fieldsInBounds
```
Comment (ineol) [inline Veir/Parser/MlirParser.lean]: You can greatly reduce this type of proofs, for example 
```
  setContext ctx' (by
    apply BlockPtr.setArguments_fieldsInBounds <;> grind [BlockArgument.FieldsInBounds])
```

File: Veir/Rewriter/GetSetInBounds.lean [hunk 7]
```diff
@@ -4288,3 +4320,64 @@ theorem Rewriter.createOp_fieldsInBounds
     ctx.FieldsInBounds → newCtx.FieldsInBounds := by
   simp only [createOp] at heq
   grind
+
+section IRContext.create
+
+unseal IRContext.create Rewriter.createRegion Rewriter.createBlock in
+theorem IRContext.create_fieldsInBounds (h : IRContext.create OpInfo = some (ctx, op)) :
```
Comment (ineol) [inline Veir/Rewriter/GetSetInBounds.lean]: This proofs can be reduced to a few calls to grind with the right lemmas. It should also be easier if you rebase on main because the definition of `IRContext.create` has been simplified.

File: UnitTest/MlirParser.lean (hunk 4 above)
Comment (GZGavinZhao) [reply UnitTest/MlirParser.lean]: I've yet to find a way to get rid of `hcreate`, but `hctx` has been removed using `grind`.

File: Veir/Parser/DecidableInBounds.lean [hunk 8]
```diff
@@ -0,0 +1,132 @@
...
+/-- Check that all regions in an array are in bounds. -/
+def checkAllRegionsInBounds (regions : Array RegionPtr) (ctx : IRContext OpInfo) :
+    Except String (PLift (∀ r, r ∈ regions → r.InBounds ctx)) :=
+  if h : ∀ r, r ∈ regions → r.InBounds ctx then .ok ⟨h⟩
+  else .error s!"internal error: not all regions are in bounds"
+
+/-! ## Lifting to Monads -/
+
+/-- Lift `Except ε` to any monad with `MonadExcept ε`. Enables `←` syntax for check functions. -/
+instance [Monad m] [MonadExcept ε m] : MonadLift (Except ε) m where
```
Comment (GZGavinZhao) [inline Veir/Parser/DecidableInBounds.lean:105]: This instance feels general enough to be put somewhere else, or maybe not because it might be too general and cause instance diamonds?

File: Veir/Parser/MlirParser.lean [hunk 9]
```diff
@@ -92,32 +95,36 @@ set_option warn.sorry false in
...
-    let some (ctx, block) := Rewriter.createBlock ctx ip (by sorry) (by sorry)
-      | throw "internal error: failed to create block"
-    setContext ctx
-    /- Notify the parsing context that the block is defined. -/
-    modifyThe MlirParserState fun s =>
-    {s with blocks := s.blocks.insert name (block, true)}
-    return block
+    let ⟨ctx, h_ctx_FieldsInBound⟩ ← getContext
+    let ⟨hip⟩ ← checkBlockInsertPointInBounds ip ctx
+    match heq : Rewriter.createBlock ctx ip h_ctx_FieldsInBound (Option.maybe_some hip) with
```
Comment (GZGavinZhao) [inline Veir/Parser/MlirParser.lean]: With `attribute [local grind] PLift`, I can get rid of `⟨hip⟩` in most places but here I still need a destruct for `hip` because of `Option.maybe_some`. If I need to write `⟨hip⟩` once and `hip` everywhere else, for consistency I might as well just stick with `⟨hip⟩`?

File: Veir/Rewriter/GetSetInBounds.lean [hunk 10]
```diff
@@ -1993,6 +1993,37 @@ theorem OpOperandPtrPtr.get!_detachBlockOperands {opOperandPtr : OpOperandPtrPtr
 
 end Rewriter.detachBlockOperands
 
+section Rewriter.createBlock
```
Comment (math-fehr) [inline Veir/Rewriter/GetSetInBounds.lean]: Can we move these changes to a new PR?

File: Veir/Rewriter/GetSetInBounds.lean [hunk 11]
```diff
@@ -4384,3 +4415,10 @@ theorem OperationPtr.getNumOperands_iff_replaceValue?
     OperationPtr.getNumOperands op ctx' h_op =
     OperationPtr.getNumOperands op ctx (by grind) := by
   grind [OpOperandPtr.inBounds_if_operand_size_eq]
+
+-- TODO: GZGavinZhao: this probably belongs somewhere else
+@[grind →]
+theorem IRContext.create_fieldsInBounds {op: OperationPtr} (h : IRContext.create OpInfo = some (ctx, op)) :
+    ctx.FieldsInBounds ∧ op.InBounds ctx := by
+  simp only [IRContext.create] at h
+  constructor <;> grind (gen := 10)
```
Comment (math-fehr) [inline Veir/Rewriter/GetSetInBounds.lean:4373]: This should probably be moved right after the definition of `IRContext.create`

File: Veir/Parser/DecidableInBounds.lean [hunk 12]
```diff
@@ -0,0 +1,132 @@
...
+def checkBlockInsertPointInBounds (ip : BlockInsertPoint) (ctx : IRContext OpInfo) :
+    Except String (PLift (ip.InBounds ctx)) :=
+  if h : ip.InBounds ctx then .ok ⟨h⟩
+  else .error s!"internal error: block insertion point is not in bounds"
+
+/-- Check that an optional block insertion point satisfies maybe-InBounds. -/
+def checkMaybeBlockInsertPointInBounds (ip : Option BlockInsertPoint) (ctx : IRContext OpInfo) :
+    Except String (PLift (ip.maybe BlockInsertPoint.InBounds ctx)) :=
+  if h : ip.maybe BlockInsertPoint.InBounds ctx then .ok ⟨h⟩
+  else .error s!"internal error: optional block insertion point is not in bounds"
```
Comment (math-fehr) [inline Veir/Parser/DecidableInBounds.lean]: This function is dead code AFAIK

File: Veir/Parser/DecidableInBounds.lean [hunk 13]
```diff
@@ -0,0 +1,132 @@
...
+def checkOpInBounds (op : OperationPtr) (ctx : IRContext OpInfo) :
+    Except String (PLift (op.InBounds ctx)) :=
+  if h : op.InBounds ctx then .ok ⟨h⟩
+  else .error s!"internal error: operation is not in bounds"
+
+/-- Check that a value is in bounds. -/
+def checkValueInBounds (value : ValuePtr) (ctx : IRContext OpInfo) :
+    Except String (PLift (value.InBounds ctx)) :=
+  if h : value.InBounds ctx then .ok ⟨h⟩
+  else .error s!"internal error: value is not in bounds"
```
Comment (math-fehr) [inline Veir/Parser/DecidableInBounds.lean:76]: This is dead code too I think

File: Veir/Parser/DecidableInBounds.lean [hunk 14]
```diff
@@ -0,0 +1,132 @@
...
+
+/-- Check that a region is in bounds. -/
+def checkRegionInBounds (region : RegionPtr) (ctx : IRContext OpInfo) :
+    Except String (PLift (region.InBounds ctx)) :=
+  if h : region.InBounds ctx then .ok ⟨h⟩
+  else .error s!"internal error: region is not in bounds"
```
Comment (math-fehr) [inline Veir/Parser/DecidableInBounds.lean:82]: This is dead code too I think

File: Veir/Parser/DecidableInBounds.lean [hunk 15]
```diff
@@ -0,0 +1,132 @@
...
+
+variable {OpInfo : Type} [HasOpInfo OpInfo]
+
+/-
+  ## Decidable instances for InsertPoint types
+
+  InsertPoint.InBounds and BlockInsertPoint.InBounds reduce to underlying pointer
+  InBounds checks, so they are also decidable.
+
+  TODO(gzgz): Maybe there's a better file to put these instances in?
```
Comment (math-fehr) [inline Veir/Parser/DecidableInBounds.lean]:
```suggestion
```
I think that should be fine here

File: Veir/Parser/DecidableInBounds.lean [hunk 16]
```diff
@@ -0,0 +1,132 @@
...
+    cases inst a y with
+    | isTrue h =>
+      apply isTrue
+      intro z hz
+      cases hz
+      exact h
+    | isFalse h =>
+      apply isFalse
+      intro hcontra
+      exact h (hcontra a rfl)
```
Comment (math-fehr) [inline Veir/Parser/DecidableInBounds.lean]: Can you write this not in tactic mode? I think that should be more readable that way?

File: Veir/Parser/MlirParser.lean [hunk 17]
```diff
@@ -357,21 +366,37 @@ partial def parseOptionalOp (ip : Option InsertPoint) : MlirParserM (Option Oper
...
+  let ⟨ctx, h_ctx_FieldsInBound⟩ ← getContext
+  setContext Inhabited.default (by
+    -- TODO(gzgz): extract into a separate theorem about `default` being
+    -- `FieldsInBound`
+    simp [default, instInhabitedIRContext.default]
+    grind [IRContext.FieldsInBounds, OperationPtr.InBounds, BlockPtr.InBounds, RegionPtr.InBounds])
+
+  -- Check InBounds for all operands, block operands, regions, and insertion
+  -- TODO(gzgz): convert them to proofs as much as possible. `InsertPoint`
+  -- should be the easiest one to start with.
```
Comment (math-fehr) [inline Veir/Parser/MlirParser.lean:375]: Can we move this to a GitHub issue rather than a comment here?
Because this should be changed everywhere in the code, not only here.

File: Veir/Parser/MlirParser.lean [hunk 18]
```diff
@@ -357,21 +366,37 @@ partial def parseOptionalOp (ip : Option InsertPoint) : MlirParserM (Option Oper
...
-
-  /- Register the new operation results in the parser state. -/
-  for index in 0...(op.getNumResults! ctx) do
-    let resultValue := op.getResult index
-    registerValueDef results[index]! resultValue
-  return op
+  let ⟨ctx, h_ctx_FieldsInBound⟩ ← getContext
+  setContext Inhabited.default (by
+    -- TODO(gzgz): extract into a separate theorem about `default` being
+    -- `FieldsInBound`
```
Comment (math-fehr) [inline Veir/Parser/MlirParser.lean]: Can you extract this into a separate theorem? Should just be a `grind` proof.

File: Veir/Rewriter/Basic.lean [hunk 19]
```diff
@@ -701,12 +701,26 @@ def Rewriter.createOp (ctx: IRContext OpInfo) (opType: OpInfo)
...
+  simp only [createOp] at heq
+  grind
+
+@[grind .]
+theorem Rewriter.createOp_new_not_inBounds (ptr : OperationPtr)
+    (heq : createOp ctx opType numResults operands blockOperands regions props ip h₁ h₂ h₃ h₄ h₅ = some (newCtx, ptr)) :
+    ¬ ptr.InBounds ctx := by
+  simp only [createOp] at heq
+  grind
+
```
Comment (math-fehr) [inline Veir/Rewriter/Basic.lean:761]: Can you add this in a separate PR as well?

File: Veir/Rewriter/GetSetInBounds.lean (hunk 11 above)
Comment (math-fehr) [reply Veir/Rewriter/GetSetInBounds.lean:4373]: Can you also make a PR for this one?

**Review by math-fehr — COMMENTED** [review]
Sorry for all the delay, now that I'm done with my PhD I have more time to review this!
I added a few comments, but overall the general direction is good, and it's just cleaning up things before merging.
In particular, it would be nice to split the simple additions (like `fieldsInBounds` for some functions) to some other PR to make this one more manageable.

File: Veir/Rewriter/GetSetInBounds.lean (hunk 10 above)
Comment (GZGavinZhao) [reply Veir/Rewriter/GetSetInBounds.lean]: #383

File: Veir/Parser/MlirParser.lean (hunk 18 above)
Comment (GZGavinZhao) [reply Veir/Parser/MlirParser.lean]: #384

File: Veir/Rewriter/Basic.lean (hunk 19 above)
Comment (GZGavinZhao) [reply Veir/Rewriter/Basic.lean:761]: #383

File: Veir/Rewriter/GetSetInBounds.lean (hunk 11 above)
Comment (GZGavinZhao) [reply Veir/Rewriter/GetSetInBounds.lean:4373]: The problem is this proof depends on `Rewriter.createBlock_fieldsInBounds_mono` which is defined in the same file (`Rewriter.GetSetInBounds`), but `IRContext.create` is defined in the `Rewriter.Basic`.

Comment (GZGavinZhao) [reply Veir/Rewriter/GetSetInBounds.lean:4373]: Moved discussion to [#384](https://github.com/opencompl/veir/pull/384#discussion_r3056233074).

File: Veir/Parser/DecidableInBounds.lean (hunk 13 above)
Comment (GZGavinZhao) [reply Veir/Parser/DecidableInBounds.lean:76]: The current parser doesn't, but my concern is that future parser might need this, so I just tried to write out functions that I think would be useful. Opinion not strongly held though. `checkRegionInBounds` is similar.

File: Veir/Parser/DecidableInBounds.lean [hunk 20]
```diff
@@ -0,0 +1,110 @@
...
+
+  InsertPoint.InBounds and BlockInsertPoint.InBounds reduce to underlying pointer
+  InBounds checks, so they are also decidable.
+-/
+
+instance : Decidable (InsertPoint.InBounds ip (ctx : IRContext OpInfo)) := by
+  cases ip <;> simp only [InsertPoint.InBounds] <;> infer_instance
+
+instance : Decidable (BlockInsertPoint.InBounds bip (ctx : IRContext OpInfo)) := by
+  cases bip <;> simp only [BlockInsertPoint.InBounds] <;> infer_instance
```
Comment (math-fehr) [inline Veir/Parser/DecidableInBounds.lean:29]: Can you move this to `InsertPoint` and `BlockInsertPoint`?
Because this should be useful in other places I think.

**Review by math-fehr — COMMENTED** [review]
Nice! I'm just going to check the runtime performance for this, and then I'm fine merging it!

**Comment by math-fehr** [comment]
I benchmarked the parser, and it seems that there is linearity that is broken somewhere :/
Here is the test file I tested it with: https://gist.github.com/math-fehr/d89520bb04eca0e6f728ff81f1a468ea

**Comment by GZGavinZhao** [comment]
Thanks for the benchmark! I'll investigate during the weekend. It's likely due to the linearity fix that came up during the rebuttal.

File: Veir/Parser/DecidableInBounds.lean (hunk 20 above)
Comment (GZGavinZhao) [reply Veir/Parser/DecidableInBounds.lean:29]: #434.

**Comment by GZGavinZhao** [comment]
Closing in favor of #435 for CI and benchmarks to run properly.
